US04548932
A solution of ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-chlorohexanoate (10 g) in ethanol (200 ml) is catalytically hydrogenated over 10% palladium-carbon (5 g, 50% wet) at ordinary temperature under atmospheric pressure. After the absorption of hydrogen has ceased, the catalyst is removed by filtration and the filtrate is evaporated in vacuo to yield ethyl 6-(4-piperidyl)hexanoate. This ester is dissolved in a mixture of water (100 ml), ethyl acetate (200 ml) and sodium bicarbonate (10 g). Benzyloxycarbonyl chloride (7.2 ml) is added dropwise at room temperature and the resulting mixture is stirred overnight. The ethyl acetate layer is separated, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue is purified by silica gel column chromatography using hexane-ethyl acetate (4:1) as an eluent to give ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)hexanoate (7.7 g) as a colorless oil.

reactant | ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-chlorohexanoate | 10 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)Cl | C21H30ClNO4
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 5 g | [C].[Pd]
product | ethyl 6-(4-piperidyl)hexanoate | N1CCC(CC1)CCCCCC(=O)OCC | C13H25NO2
